US04122260
3-[(Acetyloxy)methyl]-7-[[(2-formyl-1-pyrryl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid N-ethoxycarbonyl-N-methylaminomethyl ester
The sodium salt of 3-[(acetyloxy)methyl]-7-[[(2-formyl-1-pyrryl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (2.5 mmole) in 50 ml of dimethylformamide (DMF) is treated at room temperature with 2.5 mmole of N-chloromethyl-N-methylurethane for 1 hour. The mixture is carefully poured into ice water and the precipitated solid is removed by filtration and is then washed with water. The filtered solid is dissolved in ethyl acetate and washed with aqueous sodium bicarbonate and then with water. The organic layer is dried over magnesium sulfate, filtered and evaporated to dryness to give the title compound.

reactant | sodium | [Na] | Na
reactant | 3-[(acetyloxy)methyl]-7-[[(2-formyl-1-pyrryl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 2.5 mmole | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CN1C(=CC=C1)C=O)=O)=O)C(=O)O | C17H17N3O7S
reactant | N-chloromethyl-N-methylurethane | 2.5 mmole | ClCN(C(=O)OCC)C | C5H10ClNO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-[(Acetyloxy)methyl]-7-[[(2-formyl-1-pyrryl)acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid N-ethoxycarbonyl-N-methylaminomethyl ester | C(C)OC(=O)N(C)COC(=O)C=1N2C(C(C2SCC1COC(C)=O)NC(CN1C(=CC=C1)C=O)=O)=O | C22H26N4O9S
